US04272507
316 mg (1 mmole) of 4-(2,6-dichloroanilino)-3-thiophenacetic acid methyl ester are introduced into a solution of 10 mg of potassium benzyl alcoholate in 20 ml of benzyl alcohol. The mixture is stirred at room temperature for 2 hours, excess alcohol is distilled off in vacuo and 4-(2,6-dichloroanilino)-3-thiophenacetic acid benzyl ester is obtained as the residue.

reactant | 4-(2,6-dichloroanilino)-3-thiophenacetic acid methyl ester | 1 mmole, 316 mg | COC(CC1=CSC=C1NC1=C(C=CC=C1Cl)Cl)=O | C13H11Cl2NO2S
reactant | potassium benzyl alcoholate | 10 mg | C(C1=CC=CC=C1)[O-].[K+]
solvent | benzyl alcohol | 20 ml | C(C1=CC=CC=C1)O | C7H8O
product | 4-(2,6-dichloroanilino)-3-thiophenacetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1=CSC=C1NC1=C(C=CC=C1Cl)Cl)=O | C19H15Cl2NO2S
